US04316022
Preparation of 4,5-dicinnamoyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
A mixture of 4.0 g (0.023 mole) of 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine, 7.66 g (0.046 mole) of cinnamoyl chloride and 70 ml of dimethyl formamide is refluxed for 4 hours, and the mixture is processed in the usual way. 7.48 g (75%) of the title compound are obtained; m.p.: 220°-221° C.

reactant | 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.023 mole, 4.0 g | C1=NN=C2NNC3=C(N21)C=CC=C3 | C8H7N5
reactant | cinnamoyl chloride | 0.046 mole, 7.66 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
product | 4,5-dicinnamoyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 7.48 g, 75% | C(C=CC1=CC=CC=C1)(=O)N1N(C2=C(N3C1=NN=C3)C=CC=C2)C(C=CC2=CC=CC=C2)=O | C26H19N5O2
